US06610701B2
To pyrazole (14.3 g, 0.21 mol) was added 3,4-dihydro-2H-pyran (29 ml, 0.315 mol) and, after complete dissolving, trifluoroacetic acid (0.1 ml, 0.0013 mol) was added to the obtained solution. The reaction mixture was refluxed for 5 h, sodium hydride (0.2 g, 0.008 mol) was added, and the mixture was distilled to give 1-(tetrahydro-pyran-2-yl)-1H-pyrazole; b.p. ˜60-65° C./0.5-1 torr.

reactant | pyrazole | 0.21 mol, 14.3 g | N1N=CC=C1 | C3H4N2
reactant | 3,4-dihydro-2H-pyran | 0.315 mol, 29 ml | O1CCCC=C1 | C5H8O
reactant | trifluoroacetic acid | 0.0013 mol, 0.1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydride | 0.008 mol, 0.2 g | [H-].[Na+]
product | 1-(tetrahydro-pyran-2-yl)-1H-pyrazole | O1C(CCCC1)N1N=CC=C1 | C8H12N2O
